US04181663
1-(3-Bromo-1-oxopropyl)-L-proline
L-proline (5.75 g.) is dissolved in N sodium hydroxide with stirring in an ice bath. To this 50 ml. of N sodium hydroxide is added followed immediately by 3-bromopropanoyl chloride (8.5 g.). The pH is about 8 and the bath is removed. After 1.5 hours an additional 2.5 ml. of 2 N sodium hydroxide is added to bring the pH to 7. The reaction mixture is extracted twice with ether, the aqueous portion is acidified with concentrated hydrochloric acid and extracted into ethyl acetate. Yield 7.7 g. The 1-(3-bromo-1-oxopropyl)-L-proline is converted with dicyclohexylamine in ethyl acetate to the dicyclohexylamine salt, m.p. 284°-286°. This salt is then converted to the free acid with 10% potassium bisulfate in ethyl acetate. This product is recrystallized from ethyl acetate:hexane and recrystallized from ethyl acetate, m.p. 83°-85°.

reactant | L-proline | 5.75 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3-bromopropanoyl chloride | 8.5 g | BrCCC(=O)Cl | C3H4BrClO
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(3-Bromo-1-oxopropyl)-L-proline | BrCCC(=O)N1[C@H](C(=O)O)CCC1 | C8H12BrNO3
